US05817671
5-(N-[4-cyanobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.100 gm (0.43 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.093 gm (0.56 mMol) 4-cyanobenzoyl chloride, 0.068 gm (44%) of the title compound was recovered as a crystalline solid by the procedure described in Example 4.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.43 mMol, 0.100 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 4-cyanobenzoyl chloride | 0.56 mMol, 0.093 gm | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | 5-(N-[4-cyanobenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.068 gm, 44% | C(#N)C1=CC=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=C1 | C21H21N5O
